US05834468
4-[3-(2(Benzylamino)phenyl)propyl]benzoic acid
To a solution of ethyl 4-[3-(2-(benzylamino)phenyl)propyl]benzoate (1 g) in methanol (50 ml) was added 1N sodium hydroxide (13.4 ml). The mixture was stirred for 2 hours, heated at reflux for 10 minutes, the solvent was evaporated, the residue mixed with water (50 ml) and acidified to pH4 with 2N HCl. The mixture was extracted with ethyl acetate (3×20 ml) and the extracts washed with brine (2×20 ml), dried (MgSO4), filtered and evaporated. The residue was triturated with petroleum ether (60-80) (25 ml) to give the title compound (0.55 g; 118° C.).

reactant | ethyl 4-[3-(2-(benzylamino)phenyl)propyl]benzoate | 1 g | C(C1=CC=CC=C1)NC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OCC)C=C1 | C25H27NO2
reactant | sodium hydroxide | 1N, 13.4 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[3-(2(Benzylamino)phenyl)propyl]benzoic acid | 0.55 g | C(C1=CC=CC=C1)NC1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C23H23NO2
